US06384065B1
In a mixture of 0.70 ml of ethanol and 0.30 ml of water were dissolved 0.30 g of 4-(4-isopropylphenoxy)-1-cyclohexanone and 0.21 g of D-penicillamine. The solution thus formed was stirred at ambient temperature for 4 hours. The reaction mixture was poured into a solvent mixture consisting of water and ethyl acetate, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and the deposited crystal was collected by filtration. Thus, 0.32 g of (3S)-8-(4-isopropylphenoxy)-2,2-dimethyl-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid was obtained as a colorless crystalline product.

reactant | 4-(4-isopropylphenoxy)-1-cyclohexanone | 0.30 g | C(C)(C)C1=CC=C(OC2CCC(CC2)=O)C=C1 | C15H20O2
reactant | D-penicillamine | 0.21 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.70 ml | C(C)O | C2H6O
solvent | water | 0.30 ml | O | H2O
product | (3S)-8-(4-isopropylphenoxy)-2,2-dimethyl-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.32 g | C(C)(C)C1=CC=C(OC2CCC3(N[C@H](C(S3)(C)C)C(=O)O)CC2)C=C1 | C20H29NO3S
